US07435837B2
Treatment of (±)-1-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.296 g, 1.01 mmol) with diisopropylethylamine (1.52 g, 1.5 mmol) and benzyl chloroformate (0.190 g, 1.11 mmol) generally according to the procedure described for Intermediate 12 afforded 0.33 g (84%) (±)-benzyl[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate of a colorless oil Rf=0.72 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C24H23NO4: C, 74.02; H, 5.95; N, 3.6. Found: C, 73.68H, 5.81; N, 3.43.

reactant | (±)-1-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.01 mmol, 0.296 g | COC1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO2
reactant | diisopropylethylamine | 1.5 mmol, 1.52 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 1.11 mmol, 0.190 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 0.33 g, 84% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)OC)=O | C24H23NO4
